US07625903B2
A round-bottomed flask was charged with 2-amino-4,5-difluorobenzoic acid (2 g, 11.7 mmol) and 50 mL tetrahydrofuran (THF). The flask was cooled to 0° C., whereupon a 20% solution of phosgene (6.11 mL, 11.7 mmol) in toluene was added dropwise. The reaction was stirred for 15 min at 0° C., after which a large stoichiometric excess of ammonium hydroxide was added. The reaction was then warmed to room temperature, stirred for 18 h, then washed with water, and then extracted three times with ethyl acetate. Organic layers were combined and dried over sodium sulfate, then concentrated. The product was identified as 2-amino-4,5-difluorobenzamide (1.24 g, 7.2 mmol, 62% yield). MS: M(C7H6F2N2O)=172.13, (M+H)+=173.2.

reactant | 2-amino-4,5-difluorobenzoic acid | 11.7 mmol, 2 g | NC1=C(C(=O)O)C=C(C(=C1)F)F | C7H5F2NO2
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | phosgene | 11.7 mmol, 6.11 mL | C(=O)(Cl)Cl | CCl2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-amino-4,5-difluorobenzamide | 7.2 mmol, 1.24 g, 62% yield | NC1=C(C(=O)N)C=C(C(=C1)F)F | C7H6F2N2O
